US05847149
2-Octyl-5-phenyl-1,3,4-thiadiazole
2-Bromo-5-phenyl-1,3,4-thiadiazole (2.9 g, 12 mmol) is added to a 1-octylmagnesium bromide solution (4.6 g, 24 mmol) in THF (80 ml) under a protective-gas atmosphere, and 1,3-bis(diphenylphosphino)propylnickel(II) chloride (0.15 mmol), dissolved in . . . , is then added dropwise at -5° C. The mixture is subsequently stirred at this temperature for 4 hours. After acidification by means of hydrochloric acid (pH=2), the organic phase is separated off and evaporated. The crude product is recrystallized from acetonitrile.

reactant | 2-Bromo-5-phenyl-1,3,4-thiadiazole | 12 mmol, 2.9 g | BrC=1SC(=NN1)C1=CC=CC=C1 | C8H5BrN2S
reactant | 1-octylmagnesium bromide | 24 mmol, 4.6 g | C(CCCCCCC)[Mg]Br
solvent | THF | 80 ml | C1CCOC1 | C4H8O
catalyst | 1,3-bis(diphenylphosphino)propylnickel(II) chloride | 0.15 mmol | C1(=CC=CC=C1)P(C(CCP(C1=CC=CC=C1)C1=CC=CC=C1)[Ni]Cl)C1=CC=CC=C1
product | 2-Octyl-5-phenyl-1,3,4-thiadiazole | C(CCCCCCC)C=1SC(=NN1)C1=CC=CC=C1 | C16H22N2S
